US07799820B2
Synthesis of 2-([6-(methylsulfonyl)pyridin-3-yl]oxy)-5-nitrobenzaldehyde
Cesium carbonate (10 g) was added to an N-methylpyrrolidinone (70 ml) solution of 2-chloro-5-nitrobenzaldehyde (5.0 g) and 6-(methylsulfonyl)-3-pyridinol (5 g) obtained in Reference Example 2, and stirred at room temperature for 3 hours. Water was added, then the formed crystal was collected by filtration to obtain the entitled compound as a pale brown solid.

reactant | Cesium carbonate | 10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpyrrolidinone | 70 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-chloro-5-nitrobenzaldehyde | 5.0 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 6-(methylsulfonyl)-3-pyridinol | 5 g | CS(=O)(=O)C1=CC=C(C=N1)O | C6H7NO3S
solvent | Water | O | H2O
product | 2-([6-(methylsulfonyl)pyridin-3-yl]oxy)-5-nitrobenzaldehyde | CS(=O)(=O)C1=CC=C(C=N1)OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H10N2O6S
